US06414011B1
2-Methyl-1-[3-(4-phenoxyphenyl)-1H-pyrazol-1-yl]-propan-1-one
A mixture of 3-(4-phenoxyphenyl)-1H-pyrazole (123 mg, 0.52 mmol) and NaH (28 mg, 0.70 mmol) in 5 mL of DMF was stirred at room temperature for 30 minutes. Neat isobutyryl chloride (80 μL, 0.75 mmol) was added and the reaction was stirred at room temperature. The reaction was then partitioned between water and EtOAc. The aqueous layer was extracted twice with EtOAc and the pooled organic layers were dried (Na2SO4), filtered and concentrated in vacuo. Column chromatography (5% EtOAc/hexane) gave 127 mg (80%) of the title compound as a white solid, mp 49-51° C. 1H NMR (CDCl3): δ8.30 (d, J=3.0 Hz, 1H), 7.88 (d, J=8.7 Hz, 2H), 7.39 (t, J=8.0 Hz, 2H), 7.17 (t, J=7.2 Hz, 2H), 7.12-7.08 (m, 4H), 6.75 (d, J=3.0 Hz, 1H), 4.03 (m, 1H), 1.78 (d, J=6.9 Hz, 6H).

reactant | 3-(4-phenoxyphenyl)-1H-pyrazole | 0.52 mmol, 123 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NNC=C1 | C15H12N2O
reactant | NaH | 0.70 mmol, 28 mg | [H-].[Na+]
reactant | isobutyryl chloride | 0.75 mmol, 80 μL | C(C(C)C)(=O)Cl | C4H7ClO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Methyl-1-[3-(4-phenoxyphenyl)-1H-pyrazol-1-yl]-propan-1-one | 127 mg, 80% | CC(C(=O)N1N=C(C=C1)C1=CC=C(C=C1)OC1=CC=CC=C1)C | C19H18N2O2
